US07910592B2
A flask was charged with (3-chloro-4-fluorophenyl)boronic acid (495 mg, 2.84 mmol), ethyl 4-{[(trifluoromethyl)sulfonyl]oxy}cyclohex-3-ene-1-carboxylate (686 mg, 2.27 mmol), Pd(PPh3)4 (262 mg, 0.227 mmol), 1M Na2CO3 (6.81 mL, 6.81 mmol), EtOH (2.8 mL), and DME (8.6 mL). The reaction was degassed with N2, the flask was sealed, and the reaction was heated to 100° C. for 2 hours. The reaction was then cooled to room temperature and diluted with hexanes (100 mL) and EtOAc (20 mL). The mixture was washed with water (2×25 mL) and brine (2×25 mL), and the organic layer was dried (Na2SO4), filtered, and concentrated. Purification of the residue by flash chromatography on silica gel (0 to 10% EtOAc/hexanes) afforded ethyl 4-(3-chloro-4-fluorophenyl)cyclohex-3-ene-1-carboxylate. Rf=0.25 (5% EtOAc/hexanes). 1H NMR (500 MHz, CDCl3): δ 7.37 (dd, J=7.1, 2.3 Hz, 1H), 7.20 (m, 1H), 7.05 (t, J=8.8 Hz, 1H), 6.05 (s, 1H), 4.16 (q, J=7.1 Hz, 2H), 2.36-2.62 (m, 4H), 2.17 (m, 1H), 1.84 (m, 1H), 1.27 (t, J=7.1 Hz, 3H).

reactant | (3-chloro-4-fluorophenyl)boronic acid | 2.84 mmol, 495 mg | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
reactant | ethyl 4-{[(trifluoromethyl)sulfonyl]oxy}cyclohex-3-ene-1-carboxylate | 2.27 mmol, 686 mg | FC(S(=O)(=O)OC1=CCC(CC1)C(=O)OCC)(F)F | C10H13F3O5S
reactant | Na2CO3 | 6.81 mmol, 1M, 6.81 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 2.8 mL | CCO | C2H6O
catalyst | Pd(PPh3)4 | 0.227 mmol, 262 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 8.6 mL | COCCOC | C4H10O2
product | ethyl 4-(3-chloro-4-fluorophenyl)cyclohex-3-ene-1-carboxylate | ClC=1C=C(C=CC1F)C1=CCC(CC1)C(=O)OCC | C15H16ClFO2
